US06143764
N-(2,6-Dichlorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [230]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (52 mg) was dissolved in toluene (5 ml) with heat, 2,6-dichlorophenyl isocyanate (125 mg) was added, and the admixture was refluxed with heat for 12 minutes. The separated crystals were filtered and then washed with toluene to obtain 81 mg of the title compound (yield: 96%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 52 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2,6-dichlorophenyl isocyanate | 125 mg | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-Dichlorophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 81 mg, yield: 96% | ClC1=C(C(=CC=C1)Cl)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H19Cl2N3O4
